US04337354
Step C. 3-(2,3-Dichloro-4-methoxyphenyl)-propanoic acid.
2,3-Dichloro-4-methoxycinnamic acid (200.8 g., 0.813 mole) is dissolved in tetrahydrofuran (1600 ml.) and 5% platinum on charcoal (16.3 gm.) is added. The mixture is divided into 8 separate units and each is placed in a Parr hydrogenation apparatus in an atmosphere of hydrogen at an initial pressure of 50 p.s.i. Upon shaking, the time required for the reduction of each batch is 35 to 60 minutes.

reactant | 2,3-Dichloro-4-methoxycinnamic acid | 0.813 mole, 200.8 g | ClC1=C(C=CC(=O)O)C=CC(=C1Cl)OC | C10H8Cl2O3
solvent | tetrahydrofuran | 1600 ml | O1CCCC1 | C4H8O
catalyst | platinum on charcoal | 16.3 gm | [Pt] | Pt
product | 3-(2,3-Dichloro-4-methoxyphenyl)-propanoic acid | ClC1=C(C=CC(=C1Cl)OC)CCC(=O)O | C10H10Cl2O3
